US04689338
To a solution of 5.7 g (0.030 mole) of 4-hydroxy-3-nitroquinoline in 50 ml of N,N-dimethylformamide was added 9.3 g (0.060 mole) of phosphorous oxychloride. The solution was heated on a steam bath for 5 minutes, then poured with stirring into 200 ml of 40% aqueous methylamine. The mixture was heated on a steam bath for fifteen minutes, then diluted with 200 ml of water. The solid was separated by filtration, then dissolved in dilute hydrochloric acid. The solution was filtered and the filtrate was basified with ammonium hydroxide. The solid precipitate was separated by filtration, washed with water and dried to provide yellow solid 4-methylamino-3-nitroquinoline, m.p. 167°-171° C.

reactant | 4-hydroxy-3-nitroquinoline | 0.030 mole, 5.7 g | OC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H6N2O3
reactant | phosphorous oxychloride | 0.060 mole, 9.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methylamine | 200 ml | CN | CH5N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 4-methylamino-3-nitroquinoline | CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C10H9N3O2
